US05198451
N-(2-(3,3-Diphenyl-1-propyloxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid ethyl ester
A solution of 2-(3,3-diphenyl-1-propyloxy)ethanol (3.9 g, 15 mmol) in dry THF (30 ml) kept under a nitrogen atmosphere was cooled to 10° C. and a solution of n-butyllithium in hexanes (6.0 ml, 2.5 M) was added dropwise. The reaction mixture was stirred for 1 h at room temperature and heated at reflux temperature for 1.5 h and then cooled to room temperature. p-Toluenesulphonyl chloride (2.9 g, 15 mmol) was added and the mixture was stirred at room temperature for 1.5 h. Ethyl 1,2,5,6-tetrahydro-3-pyridinecarboxylate hydrochloride (3.8 g, 20 mmol) and potassium carbonate (5.0 g, 38 mmol) were added and the mixture was stirred at room temperature for 0.5 h and then heated at reflux temperature for 4 h. The reaction mixture was allowed to stand overnight and was diluted with ice water (25 ml) and ethyl acetate (100 ml). The separated organic phase was extracted with a 10% citric acid solution (4×50 ml) and the combined aqueous extracts was washed with ethyl acetate (25 ml). The acidic aqueous phase was adjusted to pH 5 with a sodium bicarbonate solution and extracted with ethyl acetate. The organic extract was washed with a diluted sodium bicarbonate solution, dried over sodium sulphate and the solvent evaporated in vacuo to give 1.9 g (32%) of the title compound as an oil. TLC: rf=0.21 (SiO2 ; n-heptane/THF=7:3). 1H NMR (CDCl3)δ 4.12 (t, 1H); 7.00 (m, 1H).

reactant | 2-(3,3-diphenyl-1-propyloxy)ethanol | 15 mmol, 3.9 g | C1(=CC=CC=C1)C(CCOCCO)C1=CC=CC=C1 | C17H20O2
reactant | n-butyllithium | C(CCC)[Li]
reactant | p-Toluenesulphonyl chloride | 15 mmol, 2.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | Ethyl 1,2,5,6-tetrahydro-3-pyridinecarboxylate hydrochloride | 20 mmol, 3.8 g | Cl.N1CC(=CCC1)C(=O)OCC
reactant | potassium carbonate | 38 mmol, 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-(3,3-Diphenyl-1-propyloxy)ethyl)-1,2,5,6-tetrahydro-3-pyridinecarboxylic acid ethyl ester | 1.9 g, 32% | C(C)OC(=O)C=1CN(CCC1)CCOCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C25H31NO3
